US07227035B2
Synthesis of N-[4-(2-Benzoyl-4-chloro-phenylsulfamoyl)-phenyl]-acetamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 117 mg of 4-Acetylamino-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 2.16 (s, 3H), 7.26 (b, 1H), 7.33 (d, 1H, J=2.4 Hz), 7.39 (m, 6H), 7.46 (dd, 1H, J=8.4 Hz, 2.4 Hz), 7.55 (m, 3H), 7.71 (d, 1H, J=8.8 Hz), 9.74 (s, 1H). MS: m/z 429.0 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-Acetylamino-benzenesulfonyl chloride | 117 mg | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | N-[4-(2-Benzoyl-4-chloro-phenylsulfamoyl)-phenyl]-acetamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C21H17ClN2O4S
